US06320050B1
A solution of triphenylphosphine (138 mg, 0.53 mmol) in methylene chloride (2 mL) was cooled to 0° C. and then slowly treated with N-bromosuccinimide (94 mg, 0.53 mmol) in small portions. The reaction mixture was stirred at 0° C. for 10 min and then treated with 3-cyclopentyl-2-(4-methanesulfonyl-3-nitrophenyl)-propionic acid (150 mg, 0.44 mmol). The resulting reaction mixture was stirred at 0° C. for 5 min and then allowed to warm to 25° C., where it was stirred for 25 min. The reaction mixture was then treated with 2-aminothiazole (97 mg, 0.97 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was directly purified by flash chromatography, (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate), to afford 3-cyclopentyl-2-(4-methanesulfonyl-3-nitrophenyl)-N-thiazol-2-yl-propionamide (96 mg, 52%) as a pale yellow solid: mp 121-124° C.; FAB-HRMS m/e calcd for C18H21N3O5S2 (M+H)+ 424.1001, found 424.1000.

reactant | triphenylphosphine | 0.53 mmol, 138 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.53 mmol, 94 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(4-methanesulfonyl-3-nitrophenyl)-propionic acid | 0.44 mmol, 150 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C15H19NO6S
reactant | 2-aminothiazole | 0.97 mmol, 97 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(4-methanesulfonyl-3-nitrophenyl)-N-thiazol-2-yl-propionamide | 96 mg, 52% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C18H21N3O5S2
